US05166180
Preparation of 1-(2-methoxy-6-dimethylaminobenzoyl)-3-(3-trifluoromethylphenyl)urea (10)
1-(2-methoxy-6-fluorobenzoyl)-3-(3-trifluoromethylphenyl)urea is dissolved in an amount of 1.0 g in 6 ml of dimethylformamide. The starting compound is obtained by the method as described in Example VI. Liquified dimethylamine in an amount of 0.5 ml is added and the reaction mixture is heated on 100° C. for 4 hours in a sealed tube. After cooling down to room temperature the reaction mixture is poured on ice-water. The formed precipitate is filtered off and washed with water. The desired compound is obtained in a yield of 0.8 g; melting point 180° C.

reactant | 1-(2-methoxy-6-fluorobenzoyl)-3-(3-trifluoromethylphenyl)urea | COC1=C(C(=O)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)C(=CC=C1)F | C16H12F4N2O3
reactant | dimethylamine | CNC | C2H7N
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-(2-methoxy-6-dimethylaminobenzoyl)-3-(3-trifluoromethylphenyl)urea | COC1=C(C(=O)NC(=O)NC2=CC(=CC=C2)C(F)(F)F)C(=CC=C1)N(C)C | C18H18F3N3O3
